US04400461
Approximately 18.1 g of 4-methyl-3-nitrobenzoic acid was added to approximately 50 ml of methanol. Approximately 2 ml of concentrated sulfuric acid was added to this solution. The resulting solution was heated to reflux temperature and stirred at this temperature for 16 hours. The solution was cooled and approximately 300 ml of water was added. The resulting composition was extracted with 200 ml of ether. The ether phase was saved and the aqueous phase was discarded. The ether phase was then sequentially washed with 100 ml of water, followed by 100 ml of 10% aqueous sodium carbonate. The ether phase was dried over magnesium sulfate, filtered, and concentrated using a rotary evaporator and a water aspirator vacuum to yield 17.3 g of 4-methoxycarbonyl-2-nitrotoluene as a viscous oil.

reactant | 4-methyl-3-nitrobenzoic acid | 18.1 g | CC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO4
reactant | methanol | approximately 50 ml | CO | CH4O
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | approximately 300 ml | O | H2O
product | 4-methoxycarbonyl-2-nitrotoluene | 17.3 g | COC(=O)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C9H9NO4
